US07196085B2
A stirred mixture of the above crude 3-(4-methoxy-3-nitrobenzylidene)-3H-isobenzofuran-1-one (2.5 g, 0.0085 mol), industrial methylated spirit (40 ml), water (30 ml) and ammonium chloride (0.91 g, 0.017 mol) was heated to 70° C., and iron powder (4.76 g, 0.085 gatom) was added in portions. When the addition was complete, the stirred mixture was heated under reflux for a further 2 hours, then it was filtered while hot through Celite. The collected inorganic solids were washed with hot industrial methylated spirit (3×80 ml), then the filtrate and washings were combined and the solvent was removed in vacuo. The residue was triturated with water (50 ml) and the resulting solid was collected by filtration and dissolved in ethyl acetate (300 ml). The solution was filtered, the filtrate was concentrated in vacuo and the residue was triturated with industrial methylated spirit (10 ml). The resulting solid was collected by filtration and dried in vacuo for 24 hours to give 3-(3-amino-4-methoxybenzylidene)-3H-isobenzofuran-1-one (1.49 g) as a yellow solid, m.pt. 148–153° C.; m/z (M+H)+. 268, 100% purity.

reactant | 3-(4-methoxy-3-nitrobenzylidene)-3H-isobenzofuran-1-one | 0.0085 mol, 2.5 g | COC1=C(C=C(C=C2OC(C3=CC=CC=C23)=O)C=C1)[N+](=O)[O-] | C16H11NO5
reactant | ammonium chloride | 0.017 mol, 0.91 g | [Cl-].[NH4+]
catalyst | iron | 4.76 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 3-(3-amino-4-methoxybenzylidene)-3H-isobenzofuran-1-one | 1.49 g | NC=1C=C(C=C2OC(C3=CC=CC=C23)=O)C=CC1OC | C16H13NO3
